US07151105B2
Step 1: N-(4-Bromo-2-ethyl-benzyl)-methanesulfonamide
To 4-bromo-2-ethyl-benzylamine (650 mg, 3 mmol) and triethylamine (500 μL, 3.6 mmol) in dichloromethane (5 mL) at room temperature was added methanesulfonyl chloride (283 μL, 3.6 mmol). The solution was stirred 1 h, diluted in water and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, then saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to an off-white solid (880 mg, 100%). 1H NMR (300 MHz, CDCl3): δ ppm 1.25 (t, J=7.54 Hz, 3 H) 2.69 (q, J=7.54 Hz, 2 H) 2.90 (s, 3 H) 4.27–4.31 (m, 2 H) 4.40–4.50 (m, 1 H) 7.21 (d, J=8.10 Hz, 1 H) 7.32–7.40 (m, 2 H).

reactant | 4-bromo-2-ethyl-benzylamine | 3 mmol, 650 mg | BrC1=CC(=C(CN)C=C1)CC | C9H12BrN
reactant | triethylamine | 3.6 mmol, 500 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.6 mmol, 283 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(4-Bromo-2-ethyl-benzyl)-methanesulfonamide | BrC1=CC(=C(CNS(=O)(=O)C)C=C1)CC | C10H14BrNO2S
